US05166204
20 ml of ethanol and 10 ml of concentrated hydrochloric acid were added to 150 mg of N-(2-acetylaminoethyl)- 6-methoxy-1-methylcarbazole-3,4-dicarboximide. The mixture was refluxed for 15 hours and then cooled to room temperature. The resulting crystals were collected by filtration, washed with ethanol, and dried to obtain 100 mg (yield: 68%) of N-(2-aminoethyl)-6-methoxy-1-methylcarbazole-3,4-dicarboximide hydrochloride as yellow crystals.

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | N-(2-acetylaminoethyl)- 6-methoxy-1-methylcarbazole-3,4-dicarboximide | 150 mg | C(C)(=O)NCCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)OC)C | C20H19N3O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(2-aminoethyl)-6-methoxy-1-methylcarbazole-3,4-dicarboximide hydrochloride | 100 mg, yield: 68% | Cl.NCCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)OC)C | InChI=1S/C18H17N3O3.ClH/c1-9-7-12-15(18(23)21(6-5-19)17(12)22)14-11-8-10(24-2)3-4-13(11)20-16(9)14;/h3-4,7-8,20H,5-6,19H2,1-2H3;1H
